US07402595B2
6-bromo-2-(4-methoxycarbonylmethoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
The present compound was synthesized by a method similar to that in Example 259 and using 6-bromo-2-(4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (310 mg) and methyl bromoacetate. Colorless crystals (300 mg). 1H-NMR (CDCl3) δ: 3.23 (3H, s), 3.78 (3H, s), 4.59 (2H, s), 5.34 (2H, s), 6.82 (2H, d, J=8.7 Hz), 7.22 (2H, d, J=8.7 Hz), 7.24-7.31 (2H, m), 7.37 (1H, d, J=1.8 Hz), 7.40-7.49 (3H, m), 7.65 (1H, dd, J=1.8, 8.7 Hz), 8.39 (1H, d, J=8.7 Hz). HPLC analysis: purity 100% (retention time: 4.80 min). MS (ESI+): 536 (M+H), 538.

reactant | 6-bromo-2-(4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 310 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)O | C24H18BrNO4
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | 6-bromo-2-(4-methoxycarbonylmethoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)OCC(=O)OC | C27H22BrNO6
